US06762180B1
(41) 3-Z-[1-(4-(N-aminocarbonylmethyl-N-methylsulphonyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and N-aminocarbonylmethyl-N-methylsulphonyl-p-phenylenediamine Rf value: 0.7 (silica gel, methylene chloride/methanol=5:1) C26H24N4O6S

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | N-aminocarbonylmethyl-N-methylsulphonyl-p-phenylenediamine | NC(=O)CN(C1=CC=C(C=C1)N)S(=O)(=O)C | C9H13N3O3S
product | 3-Z-[1-(4-(N-aminocarbonylmethyl-N-methylsulphonyl-amino)-anilino)-1-phenyl-methylene]-6-methoxycarbonyl-2-indolinone | NC(=O)CN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1 | C26H24N4O6S
